US08222454B2
1.000 g (3.53 mmol) of racemic milnacipran hydrochloride is suspended in the mixture of 10 ml of aqueous solution and 10 ml of dichlormethane, and 10% sodium hydroxide aqueous solution is added under stirring until the aqueous phase is basic (pH=11). The organic phases is separated, the aqueous phase is extracted with dichlormethane (8 ml every time) three times, the organic extracts are combined, washed two times with saturated salt water, then dried with anhydrous sodium sulfate, filtered and removed dichlormethane by distillation to give racemic milnacipran freebase. The racemic milnacipran freebase obtained and 1.420 g (3.53 mmol) of the group T1 of D-resolving agents are dissolved in 45 ml of 98% acetone-water respectively, mixed and crystallized, filtered to afford 1.054 g of resolved product formed by (+)-milnacipran and the group T1 of D-resolving agents, 80.1% yield, the optical purity of (+)-milnacipran contained in which is 98.5% e.e.

reactant | milnacipran hydrochloride | 3.53 mmol, 1.000 g | CCN(CC)C(=O)C1(CC1CN)C=2C=CC=CC2.Cl.Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichlormethane | 10 ml | ClCCl | CH2Cl2
product | milnacipran | CCN(CC)C(=O)C1(CC1CN)C=2C=CC=CC2 | C15H22N2O
